US05281571
A solution of 5.2 g (0.013 mole) 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-N-methyl-2-nitro-N-propylbenzenamine in 100 mL acetic acid was heated to 80° C. under a nitrogen atmosphere. The heat and nitrogen were removed and 2.2 g (0.039) mole iron powder was added in 3 portions over 5 min. The solution was stirred at 80° C. for an additional 30 min. The solution was cooled and filtered through Celite®. The filtrate was diluted with 100 mL water and extracted three times with ethyl acetate. The ethyl acetate extracts were washed with a saturated NaHCO3 solution, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified chromatographically using 30% ethyl acetate in hexane as the eluent to give 3.85 g (80%) of 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-N-methyl-N-propyl-1, 2-benzenediamine as a light yellow oil, nD25 1.5352.

reactant | 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-N-methyl-2-nitro-N-propylbenzenamine | 0.013 mole, 5.2 g | ClC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(C1)N(CCC)C)[N+](=O)[O-])F | C15H15ClF4N4O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-N-methyl-N-propyl-1, 2-benzenediamine | 3.85 g, 80% | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)N(CCC)C)N)F | C15H17ClF4N4
